US04459300
2,3-Dihydroxybenzoic acid (25 g, 0.16 mol) was heated under reflux in an oxygen-free atmosphere with potassium hydroxide (26.42 g, 0.47 mole) and dibromoethane (13.46 g, 0.07 mol) using 95% ethanol (60 ml) and water (142 ml as solvent as described in J. Org. Chem. (1948), 13, 489-95 to give 2,3-ethylenedioxybenzoic acid (12.2 g, 43%), m.pt. 195°-196° C.

reactant | 2,3-Dihydroxybenzoic acid | 0.16 mol, 25 g | OC1=C(C(=O)O)C=CC=C1O | C7H6O4
reactant | oxygen | O=O | O2
reactant | potassium hydroxide | 0.47 mole, 26.42 g | [OH-].[K+]
reactant | dibromoethane | 0.07 mol, 13.46 g | BrC(C)Br | C2H4Br2
solvent | water | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2,3-ethylenedioxybenzoic acid | 12.2 g, 43% | C1OC2=C(C(=O)O)C=CC=C2OC1 | C9H8O4
